US06498251B1
Synthesis Example 37a 2-t-Butoxycarbonyl-9-methoxycarbonylmethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole
A 218 mg (5.45 mmol) portion of sodium hydride was added to 12 ml of DMF solution containing 0.99 g (3.64 mmol) of 2-t-butoxycarbonyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole, and the mixture was stirred at room temperature for 30 minutes, mixed with 0.52 ml (5.45 mmol) of methyl bromoacetate and again stirred overnight at room temperature. The reaction solution was extracted with ethyl acetate and washed with water. After drying (Na2SO4), the solvent was removed by evaporation under a reduced pressure and the thus obtained oily material was purified by a silica gel column chromatography (200 cc; elution by ethyl acetate-hexane=1:3) to obtain 0.96 g of the title compound (77% in yield).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-t-butoxycarbonyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 3.64 mmol, 0.99 g | C(C)(C)(C)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1 | C16H20N2O2
reactant | methyl bromoacetate | 5.45 mmol, 0.52 ml | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 2-t-Butoxycarbonyl-9-methoxycarbonylmethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 0.96 g, 77% | C(C)(C)(C)OC(=O)N1CC=2N(C3=CC=CC=C3C2CC1)CC(=O)OC | C19H24N2O4
